US04634465
72.5 g (0.25 mole) of 5-bromo-2,3-dihydro-2-methyl-7-sulfamoylbenzo[b]furan are hydrogenated in the presence of 22.4 g (0.25 mole) of sodium acetate and 7.5 g of 5% palladium on carbon catalyst in 750 ml of methanol. The catalyst is removed, the solvent evaporated, and the residue crystallised from a mixture of water/ethanol, affording 42.3 g (79% of theory) of 2,3-dihydro-2-methyl-7-sulfamoylbenzo[b]furan with a melting point of 174°-177° C.

reactant | 5-bromo-2,3-dihydro-2-methyl-7-sulfamoylbenzo[b]furan | 0.25 mole, 72.5 g | BrC1=CC2=C(OC(C2)C)C(=C1)S(N)(=O)=O | C9H10BrNO3S
reactant | sodium acetate | 0.25 mole, 22.4 g | C(C)(=O)[O-].[Na+]
catalyst | palladium on carbon | 7.5 g | [Pd] | Pd
solvent | methanol | 750 ml | CO | CH4O
product | 2,3-dihydro-2-methyl-7-sulfamoylbenzo[b]furan | 42.3 g, 79% | CC1CC2=C(O1)C(=CC=C2)S(N)(=O)=O | C9H11NO3S
